US08030311B2
Step 5.1: 4-[(3-Dimethylamino-propyl)-methyl-amino]-3-trifluoromethyl-phenylamine
A suspension of N,N,N′-trimethyl-N′-(4-nitro-2-trifluoromethyl-phenyl)-propane-1,3-diamine (1 g, 3.28 mmol) and Raney Ni (˜0.300 g) in MeOH (20 mL) is stirred for 2 h 40 min at rt, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of Celite and concentrated to afford the title compound as a brown oil: ES-MS: 276.2 [M+H]+; single peak at tR=1.30 min (System 1).

reactant | N,N,N′-trimethyl-N′-(4-nitro-2-trifluoromethyl-phenyl)-propane-1,3-diamine | 3.28 mmol, 1 g | CN(CCCN(C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C)C | C13H18F3N3O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Ni | ˜0.300 g | [Ni] | Ni
product | 4-[(3-Dimethylamino-propyl)-methyl-amino]-3-trifluoromethyl-phenylamine | CN(CCCN(C1=C(C=C(C=C1)N)C(F)(F)F)C)C | C13H20F3N3
